data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2777,3087,[Cl:1][C:2]1([Cl:3])[C:4]#[C:5][CH:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH2:14][CH2:15][CH2:16]1.[N:17]#[C:18][C-:19]([O+:20]=[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[Cl:1][C:2]1([Cl:3])[C:4]2=[C:5]([CH:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:19]([C:18]#[N:17])([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[O:20][C:21]2([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,14.451736082912324,-62.19170939930385
15,17,[CH3:1][C:2]#[C:3][F:4].[CH3:5][C:6](=[O:7])[CH:8]=[O+:9][CH-:10][C:11]([CH3:12])=[O:13]>>[CH3:1][C:2]1=[C:3]([F:4])[CH:10]([C:11]([CH3:12])=[O:13])[O:9][CH:8]1[C:6]([CH3:5])=[O:7],water,298.15,9.288554883851594,-80.32342035757739
1589,1758,[CH3:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[O+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:19]([C:17]([CH3:16])=[O:18])([C:20]#[N:21])[O:22][C:23]2([CH3:24])[C:25]([CH3:26])=[O:27],water,298.15,17.44553820503481,-22.759659521565546
520,567,[CH3:11][N+:12]([NH-:13])=[C:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:14]([C:15]#[N:16])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[N:12]([CH3:11])[NH:13]2,water,298.15,21.77561905533984,-13.352176831345547
2526,2805,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:24]([C:25]#[N:26])([C:27](=[O:28])[O:29][CH3:30])[NH:23][C:22]2([C:20]([NH:19][CH3:18])=[O:21])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,22.05218553459088,-4.961007439710651
1859,2062,[CH3:14][NH:15][C:16](=[O:17])[C-:18]([NH+:19]=[CH:20][C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][O:2][C:3]1([CH3:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([CH3:4])[C:5]2=[C:6]([C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([C:25](=[O:26])[O:27][CH3:28])[NH:19][CH:20]2[C:21](=[O:22])[O:23][CH3:24],water,298.15,17.846694397824162,-50.36084330692722
4306,4925,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]([C:10](=[O:11])[NH:12][CH3:13])=[N+:14]([CH3:15])[C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:16]([C:17]([CH3:18])=[O:19])([C:20]([CH3:21])=[O:22])[N:14]([CH3:15])[C:9]1([C:7]([NH:6][CH3:5])=[O:8])[C:10](=[O:11])[NH:12][CH3:13],water,298.15,39.20176536467972,-23.102079211518703
276,300,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][NH:9][C:10](=[O:11])[C:12]([CH3:13])=[NH+:14][O-:15]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[C:12]([C:10]([NH:9][CH3:8])=[O:11])([CH3:13])[NH:14][O:15]1,water,298.15,27.570182530431623,-24.02631507975597
3931,4496,[CH3:10][N-:11][O+:12]=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:11]([CH3:10])[O:12][C:13]1([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,14.293583656991125,-35.62250114886808
906,980,[CH3:16][CH-:17][N+:18]#[C:19][C:20]([CH3:21])=[O:22].[CH3:1][C:2](=[C:3]([C:4]([F:5])([F:6])[F:7])[C:8]([F:9])([F:10])[F:11])[C:12]([F:13])([F:14])[F:15]>>[CH3:1][C:2]1([C:12]([F:13])([F:14])[F:15])[C:3]([C:4]([F:5])([F:6])[F:7])([C:8]([F:9])([F:10])[F:11])[CH:17]([CH3:16])[N:18]=[C:19]1[C:20]([CH3:21])=[O:22],water,298.15,11.981407938589449,-34.53957021364049
842,912,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([N+:18]#[N:19])[C:20]([CH3:21])=[O:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[N:19]=[N:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[C:20]([CH3:21])=[O:22],water,298.15,33.4212679205786,6.507467511646168
3739,4277,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[O+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:17]([C:18]#[N:19])([C:20]#[N:21])[O:16][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,9.29962579357391,-38.63009979215192
